US04782155
0.41 ml (4.4 mmol) of phosphorus oxychloride was added to 5 ml of ethyl acetate, and 0.35 ml (4.5 mmol) of N,N-dimethylformamide was dropwise added thereto under cooling with ice. Then, the mixture was stirred at room temperature for 15 minutes. To the solution, 20 ml of a methylene chloride solution containing 1.59 g (3.38 mmol) of 2-isopropoxyimino-2-(2-tritylaminothiazol-4-yl)acetic acid (syn-isomer) was added, and the mixture was stirred for 30 minutes. To the reaction solution, 1.4 g (3.37 mmol) of benzhydryl 7-amino-3-chloromethyl-3-cephem-4-carboxylate was added under cooling with ice, and the mixture was stirred for 2 hours. To the reaction solution, 50 ml of ethyl acetate and 20 ml of water were added, and the mixture was adjusted to pH 7.0 with a 5N sodium hydroxide aqueous solution. The organic layer was separated and washed sequentially with a 5% sodium hydrogen carbonate aqueous solution, water and a saturated sodium chloride aqueous solution. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The oily residue was purified by silica gel column chromatography to obtain 1.94 g (yield: 66%) of benzhydryl 3-chloromethyl-7-[2-isopropoxyimino-2-(2-tritylaminothiazol-4-yl) acetamido]-3-cephem-4-carboxylate (syn-isomer).

reactant | phosphorus oxychloride | 4.4 mmol, 0.41 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 4.5 mmol, 0.35 ml | CN(C=O)C | C3H7NO
reactant | 2-isopropoxyimino-2-(2-tritylaminothiazol-4-yl)acetic acid | 3.38 mmol, 1.59 g | C(C)(C)ON=C(C(=O)O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H25N3O3S
reactant | benzhydryl 7-amino-3-chloromethyl-3-cephem-4-carboxylate | 3.37 mmol, 1.4 g | NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H19ClN2O3S
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 3-chloromethyl-7-[2-isopropoxyimino-2-(2-tritylaminothiazol-4-yl) acetamido]-3-cephem-4-carboxylate | 1.94 g, yield: 66% | ClCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(C(C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=NOC(C)C)=O)=O | C48H42ClN5O5S2
